US07312330B2
N-(4-tert-Butylphenyl)-7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine hydrochloride
The title compound was prepared using the general procedure set forth in Example 3, above, by heating a mixture of 2-chloro-3-(trifluoromethyl)pyridine (0.108 g, 0.59 mmol), N-(4-tert-butylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (0.112 g, 0.40 mmol) and potassium carbonate (0.16 g, 1.19 mmol) in DMF (2 mL) for 1 h.

reactant | 2-chloro-3-(trifluoromethyl)pyridine | 0.59 mmol, 0.108 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | N-(4-tert-butylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.40 mmol, 0.112 g | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2 | C17H22N4
reactant | potassium carbonate | 1.19 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-tert-Butylphenyl)-7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2C(F)(F)F | InChI=1S/C23H24F3N5.ClH/c1-22(2,3)15-6-8-16(9-7-15)30-20-17-10-12-31(13-19(17)28-14-29-20)21-18(23(24,25)26)5-4-11-27-21;/h4-9,11,14H,10,12-13H2,1-3H3,(H,28,29,30);1H
